US07732457B2
Step 6: Preparation of 2-{6-[2-(2-Chlorophenyl)-5-(4-propoxyphenyl)-pyrrol-1ylmethyl]-2-nitro-pyridin-3-yloxy}-ethanol (Intermediate 102)
To a solution of 0.2 gm of acetic acid 2-(6-aminomethyl-2-nitropyridin-3-yloxy)-ethyl ester (0.8 mmol) in 3 mL of 5:1 toluene-ethanol was added 0.20 gm of 1-(2-chlorophenyl)-4-(4-propoxyphenyl)-butane-1,4-dione and 10 mg of p-TsOH. The reaction mixture stirred at 100° C. for 72 h. The reaction mixture was poured into 200 mL of CHCl3 and washed twice with water (100 mL), saturated brine, dried (Na2SO4), and the solvents removed under reduced pressure. The residue was purified by column chromatography using 4% methanol-chloroform as an eluent to give 100 mg (25% yield) of an oil. This was used without further purification or characterization.

reactant | acetic acid 2-(6-aminomethyl-2-nitropyridin-3-yloxy)-ethyl ester | 0.8 mmol, 0.2 gm | NCC1=CC=C(C(=N1)[N+](=O)[O-])OCCOC(C)=O | C10H13N3O5
reactant | 1-(2-chlorophenyl)-4-(4-propoxyphenyl)-butane-1,4-dione | 0.20 gm | ClC1=C(C=CC=C1)C(CCC(=O)C1=CC=C(C=C1)OCCC)=O | C19H19ClO3
reactant | p-TsOH | 10 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | toluene-ethanol | 3 mL | C=1(C(=CC=CC1)CCO)C | C9H12O
product | 2-{6-[2-(2-Chlorophenyl)-5-(4-propoxyphenyl)-pyrrol-1ylmethyl]-2-nitro-pyridin-3-yloxy}-ethanol | 100 mg, 25% yield | ClC1=C(C=CC=C1)C=1N(C(=CC1)C1=CC=C(C=C1)OCCC)CC1=CC=C(C(=N1)[N+](=O)[O-])OCCO | C27H26ClN3O5
